US08470841B2
31d N—{(S)-3-[4-(5-Hydroxypyridin-2-yloxy)phenyl]-1-methylpropyl}acetamide
Sodium nitrite (154 mg, 2.23 mmol) was dissolved in 2.68 ml of concentrated sulfuric acid at 0° C. Then, N—{(S)-3-[4-(5-aminopyridin-2-yloxy)phenyl]-1-methylpropyl}-acetamide trifluoroacetate (832 mg, 2.01 mmol) in 5 ml of acetic acid was slowly added dropwise. After 1 h the ice bath was removed and stirring was continued for an hour. The reaction mixture was added dropwise to 100 ml of boiling water, the mixture was stirred for 1 h and, after cooling, extracted with ethyl acetate. The precipitated solid was filtered off and the filtrate was concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 153 mg (37%), M+H+: 301.13.

reactant | Sodium nitrite | 2.23 mmol, 154 mg | N(=O)[O-].[Na+]
reactant | N—{(S)-3-[4-(5-aminopyridin-2-yloxy)phenyl]-1-methylpropyl}-acetamide trifluoroacetate | 2.01 mmol, 832 mg | FC(C(=O)O)(F)F.NC=1C=CC(=NC1)OC1=CC=C(C=C1)CC[C@H](C)NC(C)=O
solvent | sulfuric acid | 2.68 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N—{(S)-3-[4-(5-Hydroxypyridin-2-yloxy)phenyl]-1-methylpropyl}acetamide | OC=1C=CC(=NC1)OC1=CC=C(C=C1)CC[C@H](C)NC(C)=O | C17H20N2O3
